US08664401B2
Step A) 2-(4-Bromophenoxy)pyridine
A solution of copper powder (6.4 mg, 0.1 mmol, 0.1 equiv), copper (I) iodide (19 mg, 0.1 mmol, 0.1 equiv), potassium carbonate (484 mg, 3.5 mmol, 3.5 equiv), 4-bromophenol (190 mg, 1.1 mmol, 1.1 equiv), and 2-bromopyridine (158 mg, 1.0 mmol, 1.0 equiv) in 1-methyl-2-pyrrolidinone (1.0 mL) was heated to 140° C. for 5 days. A solution of 1 M sodium hydroxide (15 mL) was added, and the mixture was extracted with ethyl acetate (1×30 mL). The organic phase was washed with 1 M sodium hydroxide (15 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The crude material was purified by flash chromatography (30% ethyl acetate in heptane) to provide a colorless oil (190 mg, 76%). MS (LCMS) m/z 250.4 (M+1).

reactant | potassium carbonate | 3.5 mmol, 484 mg, 3.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromophenol | 1.1 mmol, 190 mg, 1.1 equiv | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-bromopyridine | 1.0 mmol, 158 mg, 1.0 equiv | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium hydroxide | 1 M, 15 mL | [OH-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper | 0.1 mmol, 6.4 mg, 0.1 equiv | [Cu] | Cu
catalyst | copper (I) iodide | 0.1 mmol, 19 mg, 0.1 equiv | [Cu]I
product | 2-(4-Bromophenoxy)pyridine | 190 mg, 76% | BrC1=CC=C(OC2=NC=CC=C2)C=C1 | C11H8BrNO
